US04529736
3a-(4-Azidophenyl)octahydro-2-methyl-4,7-methano-1H-isoindole
A 200 mg portion of 4-(1,2,3,4,7,7a-hexahydro-2-methyl-4,7-methano-3aH-isoindol-3a-yl)benzenamine was suspended in 35 ml of water, the pH was adjusted to 1.6 and the solution was cooled to 5° C. A 59 mg portion of sodium nitrite was added and the mixture was stirred for one hour at 5° C. A 54 mg portion of sodium azide was added, the cooling bath removed and the reaction protected from light for one hour. Still protected from light, the mixture was diluted with ether, made basic with sodium hydroxide and evaporated at reduced pressure, giving 210 mg of the desired product as a brown oil.

reactant | 4-(1,2,3,4,7,7a-hexahydro-2-methyl-4,7-methano-3aH-isoindol-3a-yl)benzenamine | CN1CC2C3C=CC(C2(C1)C1=CC=C(C=C1)N)C3 | C16H20N2
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sodium azide | [N-]=[N+]=[N-].[Na+]
solvent | water | 35 ml | O | H2O
product | 3a-(4-Azidophenyl)octahydro-2-methyl-4,7-methano-1H-isoindole | 210 mg | N(=[N+]=[N-])C1=CC=C(C=C1)C12CN(CC2C2CCC1C2)C | C16H20N4
